US07985753B2
7-Morpholin-4-yl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
The purified N-Boc protected 7-bromotetrahydroisoquinoline, 0.1 eq. Pd2(dba)3 0.15 eq. BINAP, 2.0 eq. Cs2CO3, 1.5 eq. of morpholine are dissolved in toluene (3 mL) and the mixture is heated at 120° C. for 48 hrs, cooled and evaporated at reduced pressure. The residue is dissolved in EtOAc and washed with water and brine. Organic layer is washed with water and brine, dried over Na2SO4, filtered and evaporated. The crude product is purified by flash chromatography (eluent hexane:EtOAc=3:1).

reactant | 7-bromotetrahydroisoquinoline | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | morpholine | 1.5 eq. | N1CCOCC1 | C4H9NO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.15 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-Morpholin-4-yl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)N1CCOCC1 | C18H26N2O3
